US05852008
Preparation of 1-(1,3-benzoxazol-6-ylcarbonyl)-1,2,3,6-tetrahydropyridine (IX)
Coupling of 1,3-benzoxazol-6-carboxylic acid with 1,2,3,6-tetrahydropyridine is performed in the same manner as described for the preparation of Invention Compound V through activation with carbonyl diimidazole or by activation with other suitable reagents such as oxalyl chloride. The product can be isolated by the same methods as described for the isolation of Invention Compound V and purified by chromatography on silica gel. EIMS m/z=228 (parent), 146 (base), and 118. 1H NMR δ 2.2 (br, 2), 3.4-4.3 (br m, 4), 5.7-5.95 (br m, 2), 7.52 (dd, 1, J=8.39, 1.49 Hz), 7.64 (d, 1, J=8.41 Hz), 7.87 (d, 1, J=1.32 Hz), and 8.16 ppm (s, 1).

reactant | 1,3-benzoxazol-6-carboxylic acid | O1C=NC2=C1C=C(C=C2)C(=O)O | C8H5NO3
reactant | 1,2,3,6-tetrahydropyridine | N1CCC=CC1 | C5H9N
reactant | carbonyl diimidazole | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 1-(1,3-benzoxazol-6-ylcarbonyl)-1,2,3,6-tetrahydropyridine | O1C=NC2=C1C=C(C=C2)C(=O)N2CCC=CC2 | C13H12N2O2
